US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-8-hydroxy-naphthalene-1-sulphonamide
Prepared from 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine and 1,8naphthalene sultone by heating to 100° C. for 30 minutes and subsequently heating to 140° C. for 20 minutes. After cooling, the product obtained is purified over a silica gel column (eluant: ethyl acetate/methanol=9:1).

reactant | 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)N | C16H22N4O
reactant | 1,8naphthalene sultone | C1=CC2=C3C(=C1)OS(=O)(=O)C3=CC=C2 | C10H6O3S
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-8-hydroxy-naphthalene-1-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C2=CC=CC1=CC=CC(=C21)O | C26H28N4O4S
